US04582526
45 g of 2-hydroxy-6-chloroquinoxaline are treated in a sulphonation flask with 100 ml of phosphorus oxychloride. The mixture is stirred at reflux temperature for 20 minutes. The excess phosphorus oxychloride is thereupon distilled off and the residue is treated with 500 ml of ice-water. The product obtained is filtered off and washed with water until it is neutral. By crystallization from ethanol/water there is obtained 2,6-dichloroquinoxaline of melting point 152° C.

reactant | 2-hydroxy-6-chloroquinoxaline | 45 g | OC1=NC2=CC=C(C=C2N=C1)Cl | C8H5ClN2O
reactant | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,6-dichloroquinoxaline | ClC1=NC2=CC=C(C=C2N=C1)Cl | C8H4Cl2N2
